US06620828B2
N-[3-(2′,4′-Diamino-[2,5′]bithiazolyl-4-yl)phenyl]-5-chloro-thiophene-2-carboxamide
The title compound was prepared as follows. To a solution of 1.07 g (3.0 mmol) of 4-amino-2-(trityl-amino)-thiazole-5-carbothioic acid amide (prepared analogously to the starting material described in step (ii) of Example A(1)) dissolved in DMF (12 mL), was added 5-chloro-thiophene-2-carboxylic acid (3-bromoacetyl-phenyl)-amide. After 15 minutes, the reaction was diluted with MeOH (12 mL), treated with TFA (4 mL), and stirred overnight. The resulting solution was concentrated in vacuo, diluted with ethyl acetate, extracted with 1M NaHCO3, extracted with brine, dried over MgSO4, concentrated, and purified by flash chromatography (gradient elution: 5% CH3CN/CH2Cl2 to 30% CH3CN/CH2Cl2), giving 0.47 g (36% yield) of N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)phenyl]-5-chloro-thiophene-2-carboxamide.

reactant | 4-amino-2-(trityl-amino)-thiazole-5-carbothioic acid amide | 3.0 mmol, 1.07 g | NC=1N=C(SC1C(N)=S)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N4S2
reactant | 5-chloro-thiophene-2-carboxylic acid (3-bromoacetyl-phenyl)-amide | BrCC(=O)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)Cl | C13H9BrClNO2S
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 12 mL | CO | CH4O
product | N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)phenyl]-5-chloro-thiophene-2-carboxamide | 0.47 g, 36% yield | NC=1SC(=C(N1)N)C=1SC=C(N1)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)Cl | C17H12ClN5OS3
